US08203003B2
A solution of chloroacetyl chloride (1.0 mL, 12.6 mmol) in 1 mL of dichloromethane was added slowly into a stirred solution of trimethylsilyl (2S,4R)-4-(trimethylsilyoxy)pyrrolidine-2-carboxylate (3.62 g, 13.1 mmol) [which was contaminated with trimethylsilyl (2R,4R)-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate in about 20% content] and di(isopropyl)ethylamine (3 ml, 17.2 mmol) in 100 mL of dry dichloromethane cooled on an ice bath. An additional 1.0 ml of di(isopropyl)ethylamine was added and the mixture was stirred an additional 30 minutes on the ice bath. The reaction solution was then evaporated to dryness by a vacuum pump. The residue was slurried in pentane and filtered. The filtrate was then evaporated by a vacuum pump to yield 4.26 g (96% crude yield) of crude trimethylsilyl (2S,4R)—N-chloroacetyl-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate as an oil, which solidified upon cooling.

reactant | chloroacetyl chloride | 12.6 mmol, 1.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | trimethylsilyl (2S,4R)-4-(trimethylsilyoxy)pyrrolidine-2-carboxylate | 13.1 mmol, 3.62 g | C[Si](O[C@@H]1C[C@H](NC1)C(=O)O[Si](C)(C)C)(C)C | C11H25NO3Si2
reactant | di(isopropyl)ethylamine | 17.2 mmol, 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di(isopropyl)ethylamine | 1.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trimethylsilyl (2S,4R)—N-chloroacetyl-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate | 4.26 g | ClCC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C | C13H26ClNO4Si2
